US08283354B2
A solution of (R)-tetrahydro-2-furoic acid (58.5 g, 504 mmol) and oxalyl chloride (86 mL, 1.0 mol) in 100 mL CH2Cl2 were refluxed for 2 hours in a flask equipped with a CaCl2 guard tube. After the solution was cooled to room temperature the solvents and excess oxalyl chloride were removed by evaporation under reduced pressure. The resulting acid chloride was dissolved in 200 mL CH2Cl2 and added dropwise to a solution of 1-benzyl-4-amino piperidine dihydrochloride (142 g, 539 mmol) and triethylamine (240 mL, 1.7 mol) in 300 mL CH2Cl2 cooled in an ice bath. The resulting mixture was stirred for 2 hours at room temperature and subsequently washed twice with 300 mL portions of 5% aq. NaHCO3 and 300 mL saturated aq. NaCl solution, dried over Na2SO4, filtered, and evaporated to dryness under reduced pressure. The solid residue was triturated with 500 mL heptanes, collected by filtration, and washed twice with 200 mL portions of heptanes. The solid was air-dried at 45° C. to yield (R)-tetrahydrofuran-2-carboxylic acid (1-benzyl-piperidin-4-yl)-amide (128 g, 88%) as an off-white solid. 1H-NMR (300 MHz, CDCl3): δ 7.35-7.20 (m, 5H), 6.58 (bs, 1H), 4.29 (dd, J=5.9, 8.4 Hz, 1H), 3.92-3.77 (m, 2H), 3.48 (s, 2H), 2.82-2.74 (m, 2H), 2.32-2.21 (m, 1H), 2.19-1.95 (m, 3H), 1.94-1.78 (m, 4H), 1.58-1.40 (m, 2H) ppm.

reactant | (R)-tetrahydro-2-furoic acid | 504 mmol, 58.5 g | O1[C@H](CCC1)C(=O)O | C5H8O3
reactant | oxalyl chloride | 1.0 mol, 86 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-benzyl-4-amino piperidine dihydrochloride | 539 mmol, 142 g | Cl.Cl.C(C1=CC=CC=C1)N1CCC(CC1)N
reactant | triethylamine | 1.7 mol, 240 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | (R)-tetrahydrofuran-2-carboxylic acid (1-benzyl-piperidin-4-yl)-amide | 128 g, 88% | C(C1=CC=CC=C1)N1CCC(CC1)NC(=O)[C@@H]1OCCC1 | C17H24N2O2
